US09377689B2
A 5-L flask equipped with a stirrer, thermometer, and nitrogen purging line was charged with 655 g of allyl 4,4-bis(4-allyloxyphenyl)pentanoate and 1,310 g of tetrahydrofuran in a nitrogen atmosphere. Under ice cooling, 605 g of 70 wt % toluene solution of sodium bis(2-methoxyethoxy)aluminumhydride was added dropwise to the solution, followed by stirring at room temperature for 3 hours. Under ice cooling, 1,526 g of 10 wt % hydrochloric acid aqueous solution was added dropwise to quench the reaction. To the reaction solution were added 250 g of ethyl acetate and 750 g of toluene. An organic layer was taken out and washed three times with 500 g of water. The solvent was distilled off from the organic layer, and the residue was dissolved in 1,000 g of toluene, which was sequentially washed with five 300-g portions of 4 wt % sodium hydroxide aqueous solution, 330 g of 2 wt % hydrochloric acid aqueous solution, and four 300-g portions of water. Thereafter, the solvent was distilled off from the organic layer, obtaining 555 g of 4,4-bis(4-allyloxyphenyl)pentanol in crude form.

reactant | allyl 4,4-bis(4-allyloxyphenyl)pentanoate | 655 g | C(C=C)OC1=CC=C(C=C1)C(CCC(=O)OCC=C)(C)C1=CC=C(C=C1)OCC=C | C26H30O4
reactant | tetrahydrofuran | 1,310 g | O1CCCC1 | C4H8O
reactant | sodium bis(2-methoxyethoxy)aluminumhydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 750 g | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 250 g | C(C)(=O)OCC | C4H8O2
product | 4,4-bis(4-allyloxyphenyl)pentanol | 555 g | C(C=C)OC1=CC=C(C=C1)C(CCCO)(C)C1=CC=C(C=C1)OCC=C | C23H28O3
